US20010056109A1
(d) 6-Methoxy-2-phenylindan-1-one
Aluminum chloride (345 mg) and one quarter of the crude 3-(4-methoxyphenyl)-2-phenylpropionyl chloride from the previous step were added to dry dichloromethane (45 ml) at 0° C. After 1 hour aluminum chloride (345 mg) and the second quarter of the acid chloride were added. Stirring was continued and the addition was repeated twice again. After the last addition stirring was continued for half an hour at 0° C. and then 2 hours at room temperature. The reaction mixture was poured into ice-cold diluted acidic water. The organic phase was separated and the water phase was extracted twice with dichloromethane. The combined organic phases were washed with water, 2.5% sodium hydroxide solution in water and again with water. The dichloromethane solution was dried and evaporated.

reactant | Aluminum chloride | 345 mg | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | 3-(4-methoxyphenyl)-2-phenylpropionyl chloride | COC1=CC=C(C=C1)CC(C(=O)Cl)C1=CC=CC=C1 | C16H15ClO2
reactant | aluminum chloride | 345 mg | [Cl-].[Al+3].[Cl-].[Cl-]
solvent | dichloromethane | 45 ml | ClCCl | CH2Cl2
product | 6-Methoxy-2-phenylindan-1-one | COC1=CC=C2CC(C(C2=C1)=O)C1=CC=CC=C1 | C16H14O2
